US04502880
A 20-g portion of 2,4-dichloroquinazoline was added to 200 ml of pyridine. The reaction mixture was stirred 11/2 hours, refluxed 11/2 hours, and then allowed to stir under a calcium sulfate drying tube for 3 days. The reaction mixture was filtered. The resulting solid rinsed well with pyridine, then ether, and was dried in vacuo giving 35.9 g of 1,1'-(2,4-quinazolinediyl)bis[pyridinium] dichloride (m.p. 150°-164° ).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1,1'-(2,4-quinazolinediyl)bis[pyridinium] dichloride | 35.9 g | [Cl-].[Cl-].N1=C(N=C(C2=CC=CC=C12)[N+]1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C18H14N4.2ClH/c1-5-11-21(12-6-1)17-15-9-3-4-10-16(15)19-18(20-17)22-13-7-2-8-14-22;;/h1-14H;2*1H/q+2;;/p-2
